US07691882B2
4-(3-(2-Amino-5-chloro-pyridin-3-yl)-isoxazol-5-ylmethyl)-phenol
To a trifluoroacetic acid (6 mL) solution of 3-(5-(4-benzyloxy-benzyl)-isoxazol-3-yl)-5-chloro-pyridin-2-ylamine (304 mg, 0.776 mmol) described in Manufacturing Example 29-2-3 was added thioanisole (364 mL, 3.10 mmol) at 0° C., which was stirred for 3 hours at room temperature. To this reaction mixture were added sodium hydrogencarbonate and water at 0° C., which was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=20:1) to obtain the title compound (146 mg, 62%).

reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(5-(4-benzyloxy-benzyl)-isoxazol-3-yl)-5-chloro-pyridin-2-ylamine | 0.776 mmol, 304 mg | C(C1=CC=CC=C1)OC1=CC=C(CC2=CC(=NO2)C=2C(=NC=C(C2)Cl)N)C=C1 | C22H18ClN3O2
reactant | thioanisole | 3.10 mmol, 364 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4-(3-(2-Amino-5-chloro-pyridin-3-yl)-isoxazol-5-ylmethyl)-phenol | 146 mg, 62% | NC1=NC=C(C=C1C1=NOC(=C1)CC1=CC=C(C=C1)O)Cl | C15H12ClN3O2
